US05216156
N-{4,6-Bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}-6-aminohexanoic acid
The title compound, a colorless glass, is prepared from 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and sodium 6-aminohexanoate according to the procedure of Example 15.

reactant | 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C45H86ClN7O2
reactant | sodium 6-aminohexanoate | NCCCCCC(=O)[O-].[Na+]
product | N-{4,6-Bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}-6-aminohexanoic acid | C(CCCCCCC)ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCCC(=O)O)(C)C | C51H98N8O4
